US07494967B2
3-Methylbenzyl isobutyrate
25 g (0.2 mol) of 3-methylbenzyl alcohol (Aldrich), 18 g (0.2 mol) of isobutyric acid and 0.6 g of p-toluenesulfonic acid are heated in a 500 ml three-necked flask apparatus with a water separator until the water is completely separated. Washing is then firstly performed with diluted sodium hydrogencarbonate solution and thereafter with water. After removing the toluene by distillation, the residue is distilled using a bulb tube distillation oven. 23 g of product (60% of theoretical) is obtained.

reactant | 3-methylbenzyl alcohol | 0.2 mol, 25 g | CC=1C=C(CO)C=CC1 | C8H10O
reactant | isobutyric acid | 0.2 mol, 18 g | C(C(C)C)(=O)O | C4H8O2
catalyst | p-toluenesulfonic acid | 0.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 3-Methylbenzyl isobutyrate | 23 g, 60% | C(C(C)C)(=O)OCC1=CC(=CC=C1)C | C12H16O2
